US07829560B2
Sodium hydride (1.92 g, 48.0 mmol) is slowly added to a stirred solution of cyclohexanol (4.01 g, 40.0 mmol) in DMF (30 ml) at 0-5° C. under nitrogen. After 2.5 hours, 3,5-difluorobenzonitrile (5.56 g, 40.0 mmol) is slowly added over 5 min. The mixture is allowed to warm to room temperature and stirred for an additional 12 hours. The mixture is diluted with ether (150 ml), washed with water, brine (30 ml), dried over Na2SO4 and evaporated. The residue is purified by column chromatography on silica gel eluting with ethyl acetate:hexanes (1:10) to provide 3-fluoro-5-cyclohexyloxybenzonitrile as a yellow oil. MS: 220 (M+1).

reactant | Sodium hydride | 48.0 mmol, 1.92 g | [H-].[Na+]
reactant | cyclohexanol | 40.0 mmol, 4.01 g | C1(CCCCC1)O | C6H12O
reactant | 3,5-difluorobenzonitrile | 40.0 mmol, 5.56 g | FC=1C=C(C#N)C=C(C1)F | C7H3F2N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ether | 150 ml | CCOCC | C4H10O
product | 3-fluoro-5-cyclohexyloxybenzonitrile | FC=1C=C(C#N)C=C(C1)OC1CCCCC1 | C13H14FNO
